US09255121B2
Preparation of (3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)-N-(4-methoxyphenyl)-N-methyltetrahydrofuran-2-carboxamide
3,4,6-Tri-O-benzoyl-2,5-anhydro-D-allonic acid (2 g, 4 mmol) was dissolved in anhydrous THF (40 mL) under argon, and triphenylphosphine (2.1 g, 8 mmol) was added to the mixture. The resultant mixture was stirred until the triphenylphosphine was completely dissolved and subsequently 2,2′-dipyridyldisulfide (1.8 g, 8 mmol) was added. The mixture was stirred at room temperature for 2 hours, after which the 4-methoxy-N-methyl-aniline (0.768 g, 5.6 mmol) was added and stirring was continued at room temperature for 16 hours. The solvent was evaporated to dryness, the residue was dissolved in chloroform (150 mL) and washed twice with 0.1 M NaOH solution (100 mL), twice with 0.2 M HCl solution (100 mL), once with saturated NaHCO3 solution (100 mL) and dried (Na2SO4). The solvent was evaporated to dryness and the residue was dissolved in 7M ammonia solution in methanol (250 ml) and stirred for 16 hours at room temperature and then evaporated to dryness. The residue was dissolved in chloroform and applied to a column of silica gel. Elution with a mixture of chloroform methanol (3:1) and evaporation of the appropriate fractions yielded the title compound as an off-white solid (0.77 g, 2.6 mmol, 65%): MS (ES) m/z 320 [M+Na]+.

reactant | 3,4,6-Tri-O-benzoyl-2,5-anhydro-D-allonic acid | 4 mmol, 2 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H](C(=O)O)O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O | C27H22O9
reactant | triphenylphosphine | 8 mmol, 2.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2′-dipyridyldisulfide | 8 mmol, 1.8 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | 4-methoxy-N-methyl-aniline | 5.6 mmol, 0.768 g | COC1=CC=C(NC)C=C1 | C8H11NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (3R,4S,5R)-3,4-dihydroxy-5-(hydroxymethyl)-N-(4-methoxyphenyl)-N-methyltetrahydrofuran-2-carboxamide | 2.6 mmol, 0.77 g, 65% | O[C@H]1C(O[C@@H]([C@H]1O)CO)C(=O)N(C)C1=CC=C(C=C1)OC | C14H19NO6
